US05366993
A. 1 -Oxaspiro[2.11]tetradecane
To a dry flask under nitrogen is added 3.1 g (64.6 mmol) of 50% sodium hydride in mineral oil. The sodium hydride is washed twice with hexanes, is suspended in 80 ml of dry dimethyl sulfoxide and then 14.3 g (65.0 mmol) of trimethylsulfoxonium iodide is added. The mixture is stirred at room temperature for several hours and then 11.8 g (64.7 mmol) of cyclododecanone is introduced. The mixture is allowed to stir overnight at room temperature and then is heated for 1 hour at 50° C. The mixture is cooled to room temperature, is dissolved in 500 ml of cold water and is extracted seven times with ethyl ether. The combined organic layers are washed once with water, dried over magnesium sulfate and subjected to evaporation in vacuo. The residue is chromatographed on silica gel using 20% ethyl acetate/hexanes as the mobile phase to give 10g (78%) of the title compound as a colorless oil: NMR (CDCl3) δ1.2-1.8 (m, 18H), 2.05 (s, 1H), 2.4 (t, 2H, J=5.0 Hz), 2.45 (d, 2H), 2.58 (s, 2H ).

reactant | sodium hydride | 64.6 mmol, 3.1 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 65.0 mmol, 14.3 g | [I-].C[S+](=O)(C)C
reactant | cyclododecanone | 64.7 mmol, 11.8 g | C1(CCCCCCCCCCC1)=O | C12H22O
solvent | water | 500 ml | O | H2O
product | 1 -Oxaspiro[2.11]tetradecane | O1CC12CCCCCCCCCCC2 | C13H24O
